US05962458
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (319.5 mg, 1 mmol), (prepared as described for the starting material in Example 24), potassium carbonate (414 mg, 3 mmol), potassium iodide (16 mg, 0.1 mmol) and 4-chloromethylpyrimidine (257 mg, 2 mmol) in DMF (20 ml) was heated at 80° C. for 2 hours. The solvent was removed by evaporation and the residue was triturated with water. The solid was collected by filtration and dried under vaccum. The solid was purified by column chromatography eluting with methylene chloride/methanol (95/5). The purified white solid was suspended in methanol (25 ml) and a solution of 7.5M hydrogen chloride in methanol (20 ml) was added. The resulting solid product was collected by filtration, washed with methanol and then pentane and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((pyrimidin-4-yl)methoxy)quinazoline hydrochloride (172 mg, 42%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1 mmol, 319.5 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 mmol, 16 mg | [I-].[K+]
reactant | 4-chloromethylpyrimidine | 2 mmol, 257 mg | ClCC1=NC=NC=C1 | C5H5ClN2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((pyrimidin-4-yl)methoxy)quinazoline hydrochloride | 172 mg, 42% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=NC=NC=C2)C=C1)F | InChI=1S/C20H15ClFN5O2.ClH/c1-28-18-7-14-17(8-19(18)29-9-13-4-5-23-10-24-13)25-11-26-20(14)27-16-3-2-12(21)6-15(16)22;/h2-8,10-11H,9H2,1H3,(H,25,26,27);1H
